US07732477B2
N-[(3S)-1-Azabicyclo[2.2.2]oct-3-yl]-5-amino-1-benzothiophene-2-carboxamide dihydrochloride
422 mg (1.15 mmol) of N-[(3S)-1-azabicyclo[2.2.2]oct-3-yl]-5-nitro-1-benzo-thiophene-2-carboxamide hydrochloride are suspended in 10 ml of a 1:1 mixture of acetic acid and water. 300.0 mg (4.59 mmol) of zinc are added, the mixture is then stirred at RT for 1 h. The reaction mixture is filtered through kieselguhr, and the filter cake is washed with methanol. The filtrate is concentrated under reduced pressure and the residue is purified by preparative HPLC. The product fraction is dissolved in 4M of HCl in dioxane, concentrated under reduced pressure and recrystallized from acetonitrile. 203 mg (47.3% of theory) of the title compound are obtained. The analytical data correspond to those of the enantiomeric compound from example 62.

reactant | N-[(3S)-1-azabicyclo[2.2.2]oct-3-yl]-5-nitro-1-benzo-thiophene-2-carboxamide hydrochloride | 1.15 mmol, 422 mg | Cl.N12C[C@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2)C=C(C=C1)[N+](=O)[O-]
reactant | acetic acid | C(C)(=O)O | C2H4O2
catalyst | zinc | 4.59 mmol, 300.0 mg | [Zn] | Zn
solvent | water | O | H2O
product | N-[(3S)-1-Azabicyclo[2.2.2]oct-3-yl]-5-amino-1-benzothiophene-2-carboxamide dihydrochloride | Cl.Cl.N12C[C@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2)C=C(C=C1)N | InChI=1S/C16H19N3OS.2ClH/c17-12-1-2-14-11(7-12)8-15(21-14)16(20)18-13-9-19-5-3-10(13)4-6-19;;/h1-2,7-8,10,13H,3-6,9,17H2,(H,18,20);2*1H/t13-;;/m1../s1
